US07351742B2
Preparation 10: Diethyl 2,2′-(1,4-phenylene)diacetate
2,2′-(1,4-phenylene)diacetic acid (10.0 g, 51 mmol) was dissolved in ethanol (100 ml) and the solution treated dropwise with catalytic acetyl chloride (2.5 ml). The reaction mixture was stirred at reflux for 18 hours before being allowed to cool and concentrated in vacuo. The residue was taken up in ethyl acetate (100 ml) and extracted with sodium bicarbonate solution (3×50 ml) and brine (3×50 ml). The organic phase was then dried (magnesium sulphate) and concentrated in vacuo. The residue was triturated with pentane to yield the title product, 11.8 g.

reactant | 2,2′-(1,4-phenylene)diacetic acid | 51 mmol, 10.0 g | C1(=CC=C(C=C1)CC(=O)O)CC(=O)O | C10H10O4
reactant | acetyl chloride | 2.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | Diethyl 2,2′-(1,4-phenylene)diacetate | C1(=CC=C(C=C1)CC(=O)OCC)CC(=O)OCC | C14H18O4
